US09029545B2
N-{2-Amino-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide
A mixture of 2-amino-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid (Description 84) (388 mg, 0.770 mmol), copper (245 mg, 3.85 mmol) and quinoline (3 mL, 25.3 mmol) was heated at 200° C. for ca. 1 h. After cooling to RT, the mixture was purified by normal phase chromatography, eluting with a gradient of 50-70% ethyl acetate in cyclohexane followed by 10% MeOH in DCM, to give the title compound (127 mg). LCMS (A) m/z: 460 [M+1]+, Rt 1.10 min (acidic).

reactant | 2-amino-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid | 0.770 mmol, 388 mg | NC1=C(C=2C(=NC(=C(C2NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)O)C)S1)C1=CC(=CC=C1)OC | C22H18ClN3O5S2
reactant | quinoline | 25.3 mmol, 3 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 3.85 mmol, 245 mg | [Cu] | Cu
product | N-{2-Amino-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide | 127 mg | NC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC(=CC=C2)Cl)C)S1)C1=CC(=CC=C1)OC | C21H18ClN3O3S2
